US07473805B2
2-methoxy-5-methylbenzophenone
SnCl4 (47.5 ml, 0.41 mol) was added dropwise to a mixture of 4-methylanisol (100 g, 0.82 mol) and benzoyl (95.15 ml, 0.82 mol) in 500 ml of CH2Cl2 at 0° C. Once the addition is complete, it was allowed to react for 3-4 hours, allowing the mixture to reach room temperature. Once the reaction concluded, the mixture was cooled at 0° C., hydrolyzed with a mixture of concentrated HCl (41 ml) in H2O (376 ml), washed with 2×50 ml of NaOH (10%), dried and evaporated to give 140 g (78%) of the title compound in crystalline solid form.

reactant | SnCl4 | 0.41 mol, 47.5 ml | Cl[Sn](Cl)(Cl)Cl
reactant | 4-methylanisol | 0.82 mol, 100 g | CC1=CC=C(C=C1)OC | C8H10O
reactant | HCl | 41 ml | Cl | ClH
reactant | H2O | 376 ml | O | H2O
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-5-methylbenzophenone | 140 g, 78% | COC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C | C15H14O2
